US05169867
N-(3-isopropylideneaminoxy-2-fluoropropyl)-methylamine hydrochloride
2.5 ml of 1N sodium hydroxide solution and 0.36 ml (5 mmol) of acetone are added to a solution of 488 mg (2.5 mmol) of N-(3-aminoxy-2-fluropropyl)-methylamine dihydrochloride in 10 ml of ethanol and the mixture is stirred for 24 hours at room temperature. The reaction mixture is then concentrated to dryness by evaporation. The residue is taken up in ethanol, filtered and crystallised by the addition of ether.

reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | acetone | 5 mmol, 0.36 ml | CC(=O)C | C3H6O
reactant | N-(3-aminoxy-2-fluropropyl)-methylamine dihydrochloride | 2.5 mmol, 488 mg | Cl.Cl.O(N)CC(CNC)F
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(3-isopropylideneaminoxy-2-fluoropropyl)-methylamine hydrochloride | Cl.C(C)(C)=NOCC(CNC)F | InChI=1S/C7H15FN2O.ClH/c1-6(2)10-11-5-7(8)4-9-3;/h7,9H,4-5H2,1-3H3;1H
